US08877772B2
Preparation of 6-bromo-N2-(1H-indol-5-yl)pyrazine-2,3-diamine (Intermediate BB)
To a stirred suspension of 3,5-dibromopyrazin-2-amine (3.48 g, 13.7 mmol) and 1H-indol-5-amine (2.00 g, 15.0 mmol) in EtOH (3.5 mL) was added diisopropylethylamine [DIEA] (2.60 mL, 15.0 mmol). The resulting mixture was stirred for 48 hr at 80° C., after which it was partitioned between EtOAc and H2O. The organic layer was separated, after which it was washed with brine, dried over Na2SO4, filtered, and evaporated in vacuo to yield a residue that was purified via silica gel chromatography eluting with 1:1 EtOAc:hexanes to yield the title compound (1.75 g, 42%) as a red/brown solid. 1H NMR (DMSO-d6, 300 MHz): δ 10.98 (s, 1H), 8.22 (s, 1H), 7.83 (s, 1H), 7.31-7.28 (m, 3H), 7.19 (d, J=8.7 Hz, 1H), 6.43 (s, 2H), 6.36 (s, 1H); HPLC retention time: 2.07 minutes; MS ESI (m/z): 304.2/306.2 (M+1)+, calc. 303.

reactant | 3,5-dibromopyrazin-2-amine | 13.7 mmol, 3.48 g | BrC=1C(=NC=C(N1)Br)N | C4H3Br2N3
reactant | 1H-indol-5-amine | 15.0 mmol, 2.00 g | N1C=CC2=CC(=CC=C12)N | C8H8N2
reactant | diisopropylethylamine | 15.0 mmol, 2.60 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | EtOH | 3.5 mL | CCO | C2H6O
product | 6-bromo-N2-(1H-indol-5-yl)pyrazine-2,3-diamine | 1.75 g, 42% | BrC1=CN=C(C(=N1)NC=1C=C2C=CNC2=CC1)N | C12H10BrN5
